US06867200B1
2-Hydroxy-5-methyl-biphenyl-3-carbaldehyde
A mixture of 3-bromo-2-hydroxy-5-methylbenzaldehyde (0.30 g, 1.40 mmoles), phenyl boronic acid (0.20 g, 1.67 mmoles) and tetrakis(triphenylphosphine)palladium(0) (81 mg, 0.07 mmoles) in toluene (10 ml) and 2M K2CO3 (3 ml) was heated to 80° C. for 2 hr. The reaction mixture was cooled to ambient temperature, diluted with ether (100 ml) and washed with NaHCO3. The organic layer was dried (MgSO4), filtered and concentrated to yield a residue which was purified using flash chromatography (10% ethyl acetate/hexanes) to yield 0.15 g (49%) of the title compound as a yellow oil.

reactant | 3-bromo-2-hydroxy-5-methylbenzaldehyde | 1.40 mmoles, 0.30 g | BrC=1C(=C(C=O)C=C(C1)C)O | C8H7BrO2
reactant | phenyl boronic acid | 1.67 mmoles, 0.20 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | K2CO3 | 2M, 3 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | ether | 100 ml | CCOCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.07 mmoles, 81 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Hydroxy-5-methyl-biphenyl-3-carbaldehyde | 0.15 g, 49% | OC1=C(C=C(C=C1C=O)C)C1=CC=CC=C1 | C14H12O2
